Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]1([H:11])[C-:4]=[O+:7][C@:6]1([C:5]([H:12])([H:13])[H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],51.88444997826794
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:11])[H:12])[H:13])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],92.2420393214451
[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([O:3][H:10])[H:9])([H:6])[H:8].[C:4](#[N:5])[H:7],86.428724679146
[C:1]([O:2]/[C:3](=[C:4](\[C:5]([H:14])([H:15])[H:16])[H:13])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:17])[H:18].[H:11][H:19]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],32.745338362735
[N:1]([C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:11])[H:9])[H:8])([H:7])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],2.152827945004404
[O:1]([C:5]1=[C:6]([H:10])[C@@:2]1([C:3]#[C:4][H:9])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],57.12182602816063
[O:1]([C:2]([C@@:3]1([H:12])[C:4][C:5]([H:10])([H:11])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],29.199770096311198
[N:1](=[C:6](/[C@:3]1([H:9])[C:2]([H:8])=[C:5]([H:11])[N:4]1[H:10])[H:12])\[H:7]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12],79.90453063303599
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C:3]([H:11])([H:12])[O:4]1)([H:8])[H:9].[C:5](=[O:6])([N:7]([H:13])[H:14])[H:10],107.251977945591
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]([C:3]([C:4][O:5][H:12])([H:10])[H:11])([C:7](=[C:6]([H:13])[H:14])[H:15])[H:9])[H:8],39.2200385351391
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12],56.5741714032629
[C:1]([C:2](=[C:3]([H:10])[H:12])[O:4][H:13])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],70.1751730058856
[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10]>>[C:1](=[C:4]([H:9])[H:10])([H:5])[H:6].[C:2](=[O:3])([H:7])[H:8],56.02541359879599
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C:3]1=[C:7]([H:14])[C:6]([H:8])([H:13])[N:5]([H:12])[N-:4]1)[H:11])([H:9])[H:10],110.680956243335
[N:1](=[C:2]1\[O:3][C:4]1([H:8])[H:9])\[H:6].[O:5]([H:7])[H:10]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],5.386388020525885
[C-:1](=[C:2]1[C:3]([H:8])=[O+:6][C:5]([H:11])([H:12])[C:4]1([H:9])[H:10])[H:7]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],37.701905836329004
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[O:1]1[C:2]([H:7])=[C:6]([H:10])[C@@:4]2([H:9])[C@:3]1([H:8])[O:5]2,33.1838636396671
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],66.7160505136544
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](\[O:3][H:9])[C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])\[H:8],107.311130341148
[C@@:1]12([H:7])[C@:2]3([C:3]([H:10])([H:11])[O:4]3)[C:5]1=[C:6]2[H:12].[H:8][H:9]>>[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],46.379549653086514
[C:1]([C:2]([C:3]([C:5]([O:4][H:14])([C:6]([H:16])([H:17])[H:18])[O:7][H:19])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],88.4010935125581
[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1](=[C:2]([H:8])[H:9])([H:5])[H:7].[C:3](=[O:4])([H:10])[H:11].[H:6][H:12],64.37563531542929
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:15])[C@@:5]1([C:6][H:16])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],28.670596502790985
[C:1]([C@@:2]1([H:9])[O+:3]=[C-:4][C:5]([H:11])=[C:6]1[H:12])([H:7])([H:8])[H:10]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],64.24259205187153
[C:2](=[C:3]1[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)([H:9])[H:10].[O:1]([H:8])[H:11]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],55.3457269882773
